US07585535B2
Thioacetic acid S-(1-phenyl-ethyl)ester:
In a synthesis carried our according to Gauthier, Bourdon, Young, Tetrahedron Lett., 27(1), 15 (1986), at room temperature, 16.3 g of zinc iodide, 100 mL of dichloromethane and 12.5 g of 1-Phenyl-1-ethylalcohol are added to a 250 ml round-bottom flask. To this suspension 9.52 g of thioacetic acid is added. The mixture is stirred for 16 hours at room temperature. The reaction mixture is extracted with dichloromethane. The organic layer is washed with brine, dried over magnesium sulphate, filtered and concentrated to give 18.2 g of a yellow liquid which is purified by chromatography on silica gel.

reactant | 1-Phenyl-1-ethylalcohol | 12.5 g | C1(=CC=CC=C1)C(C)O | C8H10O
reactant | thioacetic acid | 9.52 g | C(C)(=S)O | C2H4OS
catalyst | zinc iodide | 16.3 g | [I-].[Zn+2].[I-]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Thioacetic acid S-(1-phenyl-ethyl)ester | 18.2 g | C1(=CC=CC=C1)C(C)SC(C)=O | C10H12OS
